US05055458
A mixture of diethyl 3-aminooxypropoxymethylphosphonate (4 g,16.6 mmol), 4,6-dichloro-2,5-diformamidopyrimidine (3.9 g, 16.6 mmol) and diisopropylethylamine (8.67 ml, 49.8 mmol) in diglyme (80 ml) was heated at 100° C. for 2 h. After removal of the solvent under reduced pressure, the residue was chromatographed in chloroform/methanol (100:1, 50:1, 10:1) affording 4-chloro-6-[3-(diethoxyphosphorylmethoxy)propoxyamino]-2,5-diformamidopyrimidine as a yellow oil (4.61 g, 63%); νmax (film) 3200, 2990, 1690, 1590, 1220, 1040 cm-1 ; δH [(CD3)2SO] 1.22(6H, t, J7 Hz, (CH3CH2O)2), 1.85(2H, m, CH2CH2CH2), 3.65(2H, t, J6.3 Hz, CH2OCH2P), 3.40(2H, d, J8.2 Hz, CH2P), 3.92(2H, t, J6 Hz, CH2ON), 4.04(4H, m, (CH3CH2O)2), 8.15(1H, s, CHO), 9.25(1H, br.s, CHO), 9.43(1H, br.s, D2O exchangeable, NH), 10.76(1H, br s, D2O exchangeable, NH), 10.86(1H, br.s,D2O exchangeable, NH); Found: M+ 439.1015; C14H23ClN5O7P requires: M+ 439.1024.

reactant | diethyl 3-aminooxypropoxymethylphosphonate | 16.6 mmol, 4 g | NOCCCOCP(OCC)(OCC)=O | C8H20NO5P
reactant | 4,6-dichloro-2,5-diformamidopyrimidine | 16.6 mmol, 3.9 g | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | diisopropylethylamine | 49.8 mmol, 8.67 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | diglyme | 80 ml | COCCOCCOC | C6H14O3
product | 4-chloro-6-[3-(diethoxyphosphorylmethoxy)propoxyamino]-2,5-diformamidopyrimidine | 4.61 g, 63% | ClC1=NC(=NC(=C1NC=O)NOCCCOCP(=O)(OCC)OCC)NC=O | C14H23ClN5O7P
